datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[C:10]#[C:11][N:12](CC1=CC=CC=C1)[S:63](C1=CC=C(C)C=C1)(=[O:64])=[O:74].[C+:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2>>CC[C:10](=[C:11]=[N+:12](CC1=CC=CC=C1)[S:63](C1=CC=C(C)C=C1)(=[O:64])=[O:74])[C:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2 10,11=10,20;12=11,12"
"C1CCCCCCC[C:11](=[CH2:10])CCCCCC1.F[C:20]1=[C:21](F)[C:22](=[O:23])[C:30](F)=[C:31](F)[C:32]1=[O:33]>>F[C:20]1([CH2:10][C+:11]2CCCCCCCCCCCCCC2)[C:21](F)=[C:22]([O-:23])[C:30](F)=[C:31](F)[C:32]1=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:62](=[N:61][CH:10]=[C:11]=[N-:12])[C:63]2=[CH:64][CH:65]=[CH:66][CH:74]=[CH:75]2)C=C1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([CH:10]([C:11]#[N:12])[N:61]=[C:62](C2=CC=CC=C2)[C:63]2=[CH:64][CH:65]=[CH:66][CH:74]=[CH:75]2)[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1 10,11=10,20;12=11,12"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[H:10][Sn:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1>>CC[O:34][C:32]([C:21]([CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33].[Sn+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:64]1=[CH:63][CH:62]=[C:61]([NH2:10])[CH:72]=[CH:73]1.C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CO[C:64]1=[CH:63][CH:62]=[C:61]([NH2+:10][CH:20]([C:21]2=[C:22](C)[NH:23]C3=C2C=CC=C3)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:22](/[CH:21]=[CH:20]/C)=[O:23].[H][Si:11]([H])([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>CC[O:33][C:22](=[CH:21][CH:20](C)[H:10])[O-:23].[H][Si+:11]([H])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20;20,21=21,22;22,23=23"
"CCC[Si:11](CCC)(CCC)[H:10].C[C:20]1=[CH:21][C:22](=[O:23])CCC1>>CCC[Si+:11](CCC)CCC.C[C:20]1([H:10])CCC[C:22]([O-:23])=[CH:21]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:10]>>C1=CC=C([C:22](=[CH:21][CH2:20][H:10])[O-:23])C=C1.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1.O=[N+]([O-])C1=CC=C([N:31]=[C:20]=[S:21])C=C1>>CO[C:64]1=[CH:63][CH:62]=[C:61]([O:10][C:20]([S-:21])=[N:31]C2=CC=C([N+](=O)[O-])C=C2)[CH:72]=[CH:73]1 10=20;20,21=21"
C1=CC=C(CC2C[O:72][C:61](=[O:62])[N-:10]2)C=C1.Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2C(CC3=CC=CC=C3)C[O:72][C:61]2=[O:62])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10=20
"C/[C:11](=[C:10]1\CCC[O:72][C:61]1=[O:62])[O-:12].CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](=[CH:21][CH:20]([C:10]1([C:11](C)=[O:12])CCC[O:72][C:61]1=[O:62])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:11](=[CH2:10])[CH2:62][Ge:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH2:10][C+:11](C)[CH2:62][Ge:63](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
[CH-:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]2.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2+:20])[Co-3:42]32(C#[O+])(C#[O+])C#[O+]>>[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH2:20][CH:10]1[CH:61]=[CH:62][C:72]4=[C:71]1[CH:76]=[CH:75][CH:74]=[CH:73]4)[Co-3:42]32(C#[O+])(C#[O+])C#[O+] 10=20
"C1=CC=C([S:61]([CH-:10][C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])(=[O:62])=[O:72])C=C1.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl>>C1=CC=C([S:61]([CH:10]([Cl:20])[C:91]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:92])(=[O:62])=[O:72])C=C1.Cl[C:21]1=[C:22]([O-:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl 10=20;20,21=21,22;22,23=23"
